US04269983
b. Formation of 5-[1-(2-chlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer
A 300 milliliter, 3-neck flask equipped with a magnetic stirrer, thermometer, dry ice condenser/drying tube and inlet from a phosgene (COCl2) tank via a calibrated rotometer was charged with 50 milliliters of ethyl acetate saturated with phosgene at 20° C. (approximately 0.5 mole of phosgene). An additional 100 milliliters of ethylacetate was added; 9.8 grams of 5-[1-(2-chlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole (prepared above) at a temperature from 0° C. to room temperature was added. The resulting solution was stirred for 17 hours with formation of an emulsion and then the flask was purged with nitrogen until no COCl2 was detected. The solution was filtered, and topped at 70° C. on a roto-vac to form 9.9 grams of a gooey yellow oil of 5-[1-(2-chlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | approximately 0.5 mole | C(=O)(Cl)Cl | CCl2O
reactant | 5-[1-(2-chlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole | 9.8 grams | ClC1=C(OC(C)C2=NN=C(S2)N)C=CC=C1 | C10H10ClN3OS
solvent | ethylacetate | 100 milliliters | C(C)OC(C)=O | C4H8O2
solvent | ethyl acetate | 50 milliliters | C(C)(=O)OCC | C4H8O2
product | 5-[1-(2-chlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate | 9.9 grams | ClC1=C(OC(C)C2=NN=C(S2)N=C=O)C=CC=C1 | C11H8ClN3O2S
